US04652566
[Preparation of 2-carbamoyl-7-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}benzofuran by the process 2]
There were dissolved 1.3 g (0.005 mole) of 2-carbamoyl-7-(3-chloro-2-hydroxypropoxy)benzofuran and 1.1 g (0.0055 mole) of 1-(2-methoxyphenyl)piperazine in a mixture solvent of 10 ml of dioxane and 10 ml of ethanol, and the resulting mixture was refluxed with heating for 7 hours. After completion of the reaction, 2N-NaOH solution was added to give the free base, which was extracted from chloroform. The extract was dried with magnesium sulfate. Then, the resultant residue obtained by distilling away the solvent under reduced pressure was crystallized from chloroform and petroleum ether.

reactant | 2-carbamoyl-7-(3-chloro-2-hydroxypropoxy)benzofuran | 0.005 mole, 1.3 g | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC(CCl)O | C12H12ClNO4
reactant | 1-(2-methoxyphenyl)piperazine | 0.0055 mole, 1.1 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-carbamoyl-7-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}benzofuran | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O | C23H27N3O5
